US09056876B2
a. PREPARATION OF N-(4-METHOXYBENZYL)-6,8-DIMETHYL-1H-PYRAZOLO[3′,4′:4,5]THIENO [2,3-B]PYRIDIN-3-AMINE
The 6,8-dimethyl-1H-pyrazolo[3′,4′:4,5]thieno[2,3-b]pyridin-3-amine (70 mg, 0.32 mmol) was stirred in DCE (3.2 mL). To this solution was added 4-methoxybenzaldehyde (0.12 mL, 0.96 mmol), acetic acid (0.040 mL, 0.64 mmol) and NaBH(AcO)3 (140 mg, 0.64 mmol). The resulting slurry was stirred for 1 hr, LC\MS indicates the reaction is nearly complete. The reaction was stirred another hour, then diluted with DCM (15 mL) and treated with aqueous 1N NaOH (12 mL). The aqueous layer was separated and extracted with DCM. The combined organic layers were dried over Na2SO4, and concentrated under vacuum to give 180 mg of crude residue. The residue was purified by reverse-phase HPLC to give 80 mg of the pure product as a yellow TFA salt. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.30 (d, J=8.6 Hz, 2H), 7.11 (s, 1H), 6.85 (2H, J=8.6 Hz, 2H), 5.74 (s, 1H), 4.32 (s, 2H), 3.70 (s, 3H), 2.62 (s, 3H), 2.50 (s, 3H). LC/MS: RT=0.63 min., m/z=339.0 [M+H]+.

reactant | 6,8-dimethyl-1H-pyrazolo[3′,4′:4,5]thieno[2,3-b]pyridin-3-amine | 0.32 mmol, 70 mg | CC1=CC(=C2C(=N1)SC1=C2NN=C1N)C | C10H10N4S
reactant | 4-methoxybenzaldehyde | 0.96 mmol, 0.12 mL | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | acetic acid | 0.64 mmol, 0.040 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 0.64 mmol, 140 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1N, 12 mL | [OH-].[Na+]
solvent | DCE | 3.2 mL | ClCCCl | C2H4Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(4-METHOXYBENZYL)-6,8-DIMETHYL-1H-PYRAZOLO[3′,4′:4,5]THIENO [2,3-B]PYRIDIN-3-AMINE | 80 mg | COC1=CC=C(CNC2=NNC3=C2SC2=NC(=CC(=C23)C)C)C=C1 | C18H18N4OS
